US04760163
A solution of 3.55 g of ethyl 3-amino-4,4,4-trifluorocrotonate in 50 ml of n-hexane is added dropwise with stirring and at 0°-3° C. during 15 minutes to 0.85 g of a 55% sodium hydride dispersion in 50 ml of dimethylformamide, and the mixture is stirred for a further 30 minutes. Then a solution of 5.0 g of isopropyl 2-chloro-4-fluoro-5-isocyanatobenzoate in 100 ml of n-hexane is added dropwise during 5 minutes with stirring and cooling. The temperature of the reaction mixture rises to 10° C., and the mixture is thereafter stirred for one hour at room temperature. The isopropyl 2-chloro-4-fluoro-5-{3-[2-(ethoxycarbonyl)-1-trifluoromethyl-vinyl]ureido}benzoate which is formed as an intermediate is not isolated.

reactant | ethyl 3-amino-4,4,4-trifluorocrotonate | 3.55 g | N\C(=C/C(=O)OCC)\C(F)(F)F | C6H8F3NO2
reactant | sodium hydride | [H-].[Na+]
reactant | isopropyl 2-chloro-4-fluoro-5-isocyanatobenzoate | 5.0 g | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N=C=O | C11H9ClFNO3
solvent | n-hexane | 50 ml | CCCCCC | C6H14
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | n-hexane | 100 ml | CCCCCC | C6H14
product | isopropyl 2-chloro-4-fluoro-5-{3-[2-(ethoxycarbonyl)-1-trifluoromethyl-vinyl]ureido}benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)NC(=O)NC(=CC(=O)OCC)C(F)(F)F | C17H17ClF4N2O5
